US06962933B1
2-(5-methyl-3-pyridyl)-1-phenylethanone
A solution of diisopropylamine (20.2 mL) in anhydrous tetrahydrofuran (180 mL) was cooled to −78° C., and a 1.6 M n-butyllithium-hexane solution (90 mL) was added dropwise with stirring. After completion of dropwise addition, the mixture was stirred for 10 min at the same temperature, and then 3,5-lutidine (14 g) was added dropwise. The temperature was raised to −10-0° C., and after stirring for 20 min, a solution of ethyl benzoate (9.8 g) in anhydrous tetrahydrofuran (20 mL) was added dropwise. After completion of dropwise addition, the mixture was stirred at room temperature for 1 h, and water (100 mL) was added. The organic solvent was evaporated under reduced pressure and an oily product was extracted with ethyl acetate. The extract was washed with water, and after drying, the solvent was evaporated. The remaining crude crystals were recrystallized from ethyl acetate-isopropyl ether to give the title compound (10 g, yield 70%).

reactant | diisopropylamine | 20.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | 3,5-lutidine | 14 g | N1=CC(=CC(=C1)C)C | C7H9N
reactant | ethyl benzoate | 9.8 g | C(C1=CC=CC=C1)(=O)OCC | C9H10O2
reactant | water | 100 mL | O | H2O
solvent | tetrahydrofuran | 180 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-(5-methyl-3-pyridyl)-1-phenylethanone | 10 g, yield 70% | CC=1C=C(C=NC1)CC(=O)C1=CC=CC=C1 | C14H13NO
